US05366993
C. 3-Cyclododecylpropanoic acid, methyl ester
To a solution of 12.6 g (50 mmol) of methyl 3-cyclododecylprop-2-enoate in 100 ml of methanol is added 3.6 g (150 mmol), 3 equiv) of magnesium metal (activated by prior heating to 160° C.) and the mixture is stirred at room temperature for 2 hours (ice bath cooling is applied when necessary to control exothermic excursions). The reaction mixture is digested with ice cold 2N hydrochloric acid and is extracted with ethyl ether (3 times). The combined ethereal extracts are washed with 2N hydrochloric acid and are dried over magnesium sulfate. Filtration and evaporation gives an oily solid. Flash chromatography on silica gel using hexane/ethyl ether (10:1) as eluting solvent affords 7.80 g of the title compound: IR 1748 cm-1 ; NMR (CDCl3) δ1.33 (m, 23H), 1.54 (t, 2H, J=8 Hz), 2.31 (t, 2H, J=8 Hz), 3.66 (s, 3H). Anal. Calc'd. for C16H30O2 :C, 75.54; H, 11.89; Found: C, 75.67; H, 10.52.

reactant | methyl 3-cyclododecylprop-2-enoate | 50 mmol, 12.6 g | C1(CCCCCCCCCCC1)C=CC(=O)OC | C16H28O2
reactant | magnesium | [Mg] | Mg
reactant | hexane ethyl ether | CCCCCC.C(C)OCC
solvent | methanol | 100 ml | CO | CH4O
product | 3-Cyclododecylpropanoic acid, methyl ester | 7.80 g | C1(CCCCCCCCCCC1)CCC(=O)OC | C16H30O2
